US04749713
To 48.0 L of acetone under nitrogen is added 4.326 Kg of potassium carbonate, 0.26 Kg of potassium iodide, 3.2 Kg of imidazole and 4.745 Kg of alpha-chloro-4-tolunitrile. The mixture is stirred at 45° under nitrogen for 26 hours. The reaction is cooled, filtered and the solvent is evaporated at reduced pressure. The residue is redissolved in 40 L of methylene chloride, washed with 40 L of water and twice with 10 L of water. The organic phase is dried over magnesium sulfate and evaporated to yield the crude product which is stirred with 6.4 L of ether for 2 hours. The solid is filtered, washed with 9 L of ether and dried at 40° and 20 mm Hg for 17 hours to yield 4-(1-imidazolylmethyl)-benzonitrile, the compound of Example 1.

reactant | potassium carbonate | 4.326 Kg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.26 Kg | [I-].[K+]
reactant | imidazole | 3.2 Kg | N1C=NC=C1 | C3H4N2
reactant | alpha-chloro-4-tolunitrile | 4.745 Kg | ClCC1=CC=C(C=C1)C#N | C8H6ClN
solvent | ether | 6.4 L | CCOCC | C4H10O
solvent | acetone | 48.0 L | CC(=O)C | C3H6O
product | 4-(1-imidazolylmethyl)-benzonitrile | N1C(=NC=C1)CC1=CC=C(C#N)C=C1 | C11H9N3
